### PR TITLE
fix: change `show` tactic to work as documented

### PR DESCRIPTION
**Pull request by Rob23oba**
This PR changes the `show t` tactic to match its documentation. Previously it was a synonym for `change t`, but now it finds the first goal that unifies with the term `t` and moves it to the front of the goal list.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 141e519009fc74d444cb8a32b55daf3c2d192bbd --onto ca0d8226192e7c0cdcc71d6322c3226ad4f73f30`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-03-08 11:41:46)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase b9f8a859e7f354f026de7c910e17ce29e23678f9 --onto ca0d8226192e7c0cdcc71d6322c3226ad4f73f30`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-03-08 13:41:28)
- 💥 Mathlib branch [lean-pr-testing-7395](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7395) build failed against this PR. (2025-06-11 15:50:11) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15589460674)
- 💥 Mathlib branch [lean-pr-testing-7395](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7395) build failed against this PR. (2025-06-11 19:12:50) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15592747771)
- 💥 Mathlib branch [lean-pr-testing-7395](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7395) build failed against this PR. (2025-06-11 22:02:21) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15595893743)
- 💥 Mathlib branch [lean-pr-testing-7395](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7395) build failed against this PR. (2025-06-12 08:26:08) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15605301009)
- 🟡 Mathlib branch [lean-pr-testing-7395](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7395) build this PR didn't complete normally. (2025-06-12 08:39:12) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15605515535)
- 🟡 Mathlib branch [lean-pr-testing-7395](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7395) build against this PR was cancelled. (2025-06-12 09:07:18) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15605768662)
- 🟡 Mathlib branch [lean-pr-testing-7395](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7395) build this PR didn't complete normally. (2025-06-12 09:08:11) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15606351349)
- 💥 Mathlib branch [lean-pr-testing-7395](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7395) build failed against this PR. (2025-06-12 09:57:23) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15606401285)
- 💥 Mathlib branch [lean-pr-testing-7395](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7395) build failed against this PR. (2025-06-12 11:29:24) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15608406096)
- 💥 Mathlib branch [lean-pr-testing-7395](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7395) build failed against this PR. (2025-06-12 15:06:07) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15614122347)
- ❌ Mathlib branch [lean-pr-testing-7395](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7395) built against this PR, but testing failed. (2025-06-12 15:28:12) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15614466292)
- ✅ Mathlib branch [lean-pr-testing-7395](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7395) has successfully built against this PR. (2025-06-12 15:55:39) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15615071759)
- ✅ Mathlib branch [lean-pr-testing-7395](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-7395) has successfully built against this PR. (2025-06-12 16:15:18) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15615501698)

**Comment by nomeata** [comment]
Thanks! Just wants to let you know that this is a change we want. Didn't look at the changes yet, since it's still a draft. And maybe I'll leave it to @kmill to review when he gets to it.

File: src/Lean/Elab/Tactic/Show.lean [hunk 1]
```diff
@@ -0,0 +1,42 @@
...
+    | x :: l' =>
+      let state ← saveState
+      Tactic.tryCatch (tryGoal newType goal l prev) fun _ => do
+        state.restore true
+        go newType x l' (goal :: prev)
+  tryGoal (newType : Term) (goal : MVarId) (l : List MVarId) (prev : List MVarId) : TacticM Unit := do
+    let type ← goal.getType
+    let tag ← goal.getTag
+    goal.withContext do
+      let (tgt', mvars) ← withCollectingNewGoalsFrom (elabChange type newType) tag `show
```
Comment (kmill) [inline src/Lean/Elab/Tactic/Show.lean]: Please modify the interface to `elabChange` so that its first argument is a tactic name, for use in the exception.
```suggestion
      let (tgt', mvars) ← withCollectingNewGoalsFrom (elabChange "show" type newType) tag `show
```

File: src/Lean/Elab/Tactic/Show.lean [hunk 2]
```diff
@@ -0,0 +1,42 @@
...
+def elabShow (newType : Term) : TacticM Unit := do
+  let (goal :: goals) ← getGoals | throwNoGoalsToBeSolved
+  go newType goal goals []
+where
+  go (newType : Term) (goal : MVarId) (l : List MVarId) (prev : List MVarId) : TacticM Unit := do
+    match l with
+    | [] => -- last goal
+      Tactic.tryCatch
+        (tryGoal newType goal [] prev)
+        (fun e => throwNestedTacticEx `show e)
```
Comment (kmill) [inline src/Lean/Elab/Tactic/Show.lean]: Given the suggested change to `elabChange`, this can be
```suggestion
      tryGoal newType goal [] prev
```
Note that this also gives friendlier error messages (we generally don't want users to be exposed to "nested error"s).

File: src/Lean/Elab/Tactic/Show.lean [hunk 3]
```diff
@@ -0,0 +1,42 @@
...
+open Meta
+/-!
+# Implementation of the `show` tactic
+-/
+
+def elabShow (newType : Term) : TacticM Unit := do
+  let (goal :: goals) ← getGoals | throwNoGoalsToBeSolved
+  go newType goal goals []
+where
+  go (newType : Term) (goal : MVarId) (l : List MVarId) (prev : List MVarId) : TacticM Unit := do
```
Comment (kmill) [inline src/Lean/Elab/Tactic/Show.lean]: The name `l` is not meaningful; let's stick with "`goals`" like in line 16. For `prev`, I find it's a nice reminder to include "rev" if the list is in reverse order.
```suggestion
  go (newType : Term) (goal : MVarId) (goals : List MVarId) (prevRev : List MVarId) : TacticM Unit := do
```

File: src/Lean/Elab/Tactic/Show.lean [hunk 4]
```diff
@@ -0,0 +1,42 @@
...
+    match l with
+    | [] => -- last goal
+      Tactic.tryCatch
+        (tryGoal newType goal [] prev)
+        (fun e => throwNestedTacticEx `show e)
+    | x :: l' =>
+      let state ← saveState
+      Tactic.tryCatch (tryGoal newType goal l prev) fun _ => do
+        state.restore true
+        go newType x l' (goal :: prev)
```
Comment (kmill) [inline src/Lean/Elab/Tactic/Show.lean]: It looks like you're doing this instead of a plain try/catch so that you restore the infotree state as well. Could you add a comment that this is being done because `tryGoal` elaborates the pattern each time?

Also, I think we should put this `tryGoal` inside a `withoutRecover`. The reason `elabChange` doesn't already do this is that `change` only applies the pattern once and isn't reasoning about whether it actually succeeded. The very last `tryGoal` should not be in `withoutRecover`, so that way `show` falls back to being equivalent to `change` if there's just a single goal.

Could you add tests that demonstrate `withoutRecover` working? Such a test would involve having two goals, where on the first goal the pattern results in an actual elaboration error, maybe something like
```
example : True ∧ (∀ x : Nat, x = x) := by
  refine ⟨?_, fun x => ?_⟩
  show x = x
```
I haven't checked that this is a working test. It should be something that demonstrates that the `withoutRecover` is necessary for proper function. (Without it, it shouldn't be too hard to cook up a test that chooses the wrong goal and includes a new `sorry`. I guess `elabChange` is careful with `isDefEq`, so it might need to be something like `show if True then ?_ else thisConstDoesNotExist`.)

Similarly, please add a test when `show` is being used on a single goal demonstrating that `withoutRecover` is not being applied.

File: src/Lean/Elab/Tactic/Show.lean [hunk 5]
```diff
@@ -0,0 +1,42 @@
...
+Authors: Robin Arnez
+-/
+prelude
+import Lean.Elab.Tactic.Change
+
+namespace Lean.Elab.Tactic
+open Meta
+/-!
+# Implementation of the `show` tactic
+-/
```
Comment (kmill) [inline src/Lean/Elab/Tactic/Show.lean:16]:
```suggestion

The `show p` tactic finds the first goal that `p` unifies with and brings it to the front of the goal list.
If there were a `first_goal` combinator, it would be like `first_goal change p`.
-/
```

File: tests/lean/showTactic.lean [hunk 6]
```diff
@@ -0,0 +1,23 @@
+example : (∀ x, x = 0) ∧ (∀ x, x = 1) ∧ (∀ x, x = 2) ∧ (∀ x, x = 3) := by
```
Comment (kmill) [inline tests/lean/showTactic.lean]: Please move this file to `tests/lean/run/showTactic.lean` and use `#guard_msgs`-based tests rather than have an `expected.out` file.

Also, please annotate the file with module comments. See `tests/lean/run/rawStrings.lean` for an example. Try to break these `example`s up into small tests that each tests one aspect of `show`, and state in the comment what is being tested.

File: src/Init/Tactics.lean [hunk 7]
```diff
@@ -790,17 +796,16 @@ The `let` tactic is for adding definitions to the local context of the main goal
...
-macro "show " e:term : tactic => `(tactic| refine_lift show $e from ?_) -- TODO: fix, see comment
 /-- `let rec f : t := e` adds a recursive definition `f` to the current goal.
 The syntax is the same as term-mode `let rec`. -/
 syntax (name := letrec) withPosition(atomic("let " &"rec ") letRecDecls) : tactic
 macro_rules
   | `(tactic| let rec $d) => `(tactic| refine_lift let rec $d; ?_)
 
+-- TODO: remove after stage0 update
+macro_rules
+  | `(tactic| show $e:term) => `(tactic| refine_lift show $e from ?_)
```
Comment (kmill) [inline src/Init/Tactics.lean]: Why is this needed? If the old `show` always worked on the first goal, then the new `show` should as well, right?

If it's not needed, please delete it. If it is needed, please add to the test file some small examples that demonstrate the difference between `refine_lift show e from ?_` and the new `show e`. Then, please delete the `macro_rules` anyway and replace broken uses of `show` in the library with `change`.

**Review by kmill — COMMENTED** [review]
Thanks for your contribution. It generally looks good.

Some Lean design comments (don't act on this in this PR, but if you are interested, you should feel free to make a followup PR): When I made `change`, I made sure to replicate how the `refine_lift` implementation could create new goals, but I now think I was wrong to continue to use `withCollectingNewGoalsFrom`. There do not seem to be any realistic circumstances where you want to make a goal contain new assigned metavariables.

I think we should have a `withCheckingNewMVarsAssigned` combinator like the following:
```lean
def getNewMVars (e : Expr) (mvarCounterSaved : Nat)  : TermElabM (Array MVarId) := do
  let mut newMVarIds ← getMVarsNoDelayed e
  newMVarIds ← filterOldMVars newMVarIds mvarCounterSaved
  /- ignore let-rec auxiliary variables, they are synthesized automatically later -/
  newMVarIds ← newMVarIds.filterM fun mvarId => return !(← Term.isLetRecAuxMVar mvarId)
  return newMVarIds

def checkAssignedNewMVars (e : Expr) (mvarCounterSaved : Nat) : TacticM Unit := do
  let newMVarIds ← getNewMVars e mvarCounterSaved
  logUnassignedAndAbort newMVarIds

def withCheckingNewMVarsAssigned (x : TacticM Expr) (mvarCounterSaved? : Option Nat := none) :
    TacticM Expr := do
  let mvarCounterSaved ← (mvarCounterSaved?.getDM do pure (← getMCtx).mvarCounter : MetaM Nat)
  let e ← x
  checkAssignedNewMVars e mvarCounterSaved
  return e
```
Then the entire body of `elabChange` could be wrapped in `withCheckingNewMVarsAssigned`.

The `getNewMVars` function could also be used to refactor tactic functions that do this `filterOldMVars` calculation, like `withCollectingNewGoalsFrom`.

File: src/Init/Tactics.lean (hunk 7 above)
Comment (Rob23oba) [reply src/Init/Tactics.lean]: The problem is that before a stage0 update, the implementation of the `show` tactic is not compiled already and thus any uses of `show` will fail with "tactic not implemented". Thus, this macro is kept for bootstrapping and can be removed once the implementation of `show` is in stage0.

Comment (kmill) [reply src/Init/Tactics.lean]: Could you please instead replace uses of `show` with `change`? This is really what I'm meaning to get at with my comment: why use a macro rule instead fixing the library?

**Comment by Rob23oba** [comment]
awaiting-review

File: tests/lean/run/showTactic.lean [hunk 8]
```diff
@@ -0,0 +1,134 @@
...
+-/
+#guard_msgs in
+example : () = () ∧ () = () := by
+  and_intros
+  show a = _
+
+/-!
+If all unifications fail, the error is from the last goal.
+-/
+
```
Comment (nomeata) [inline tests/lean/run/showTactic.lean:124]: Is this the most user friendly choice? Could it not say something like “not definitionally equal to any open goal” if there is more than one? This would also teach users about what `show` can do.

(Ok to say that this can come later)

Comment (Rob23oba) [reply tests/lean/run/showTactic.lean:124]: Maybe a message like
```
'show' tactic failed, pattern
  abc
is not definitionally equivalent to target
  xyz
or any other goal
```
would work here for multiple goals?

File: tests/lean/run/change.lean [hunk 9]
```diff
@@ -140,6 +140,11 @@ Fails, type hint can't hint enough since `.some _` is postponed.
 /--
 error: invalid dotted identifier notation, expected type is not of the form (... → C ...) where C is a constant
   ?_
+---
+error: 'change' tactic failed, pattern
+  ?_ = sorry
+is not definitionally equal to target
+  some true = Option.map id (some true)
```
Comment (kmill) [inline tests/lean/run/change.lean]: This is a regression.

Computing the diffs inside lazy message data is probably not saving much work.

In any case, I believe the problem is that the `es` argument isn't being provided to `ofLazyM`.

File: tests/lean/interactive/incrementalTactic.lean.expected.out [hunk 10]
```diff
@@ -61,7 +61,7 @@ s
 { goals := #[{ type := Lean.Widget.TaggedText.tag
                          { subexprPos := "/", diffStatus? := none }
                          (Lean.Widget.TaggedText.text "True"),
-               isInserted? := some false,
+               isInserted? := none,
```
Comment (kmill) [inline tests/lean/interactive/incrementalTactic.lean.expected.out:64]: Why is this different?

File: tests/lean/run/showTactic.lean (hunk 8 above)
Comment (kmill) [reply tests/lean/run/showTactic.lean:124]: Earlier I was wondering if it should give the defeq error for the *first* goal. It seems like the only "right" things to do are giving no defeq errors, giving the first defeq error, or giving all defeq errors, but not the last defeq error.
```
'show' tactic failed, pattern
  abc
is not definitionally equivalent to the first target
  xyz
or to the target of any other goal
```

For message customization, this could work:
```
private def elabChangeDefaultError (p tgt : Expr) : MetaM MessageData := do
  return m!"\
    'change' tactic failed, pattern{indentExpr p}\n\
    is not definitionally equal to target{indentExpr tgt}"

def elabChange (e : Expr) (p : Term) (mkDefeqError : Expr → Expr → MetaM MessageData := elabChangeDefaultError) : TacticM Expr
...
```
That would still be compatible with ofLazyM.

File: tests/lean/run/change.lean (hunk 9 above)
Comment (Rob23oba) [reply tests/lean/run/change.lean]: `MessageData.ofLazyM` is used most of the time when using `addPPExplicitToExposeDiff` and, in particular, we would otherwise run this for every failed unification in `show`, which is suboptimal. So yeah, I'll just fix it by adding `es`.

File: tests/lean/interactive/incrementalTactic.lean.expected.out (hunk 10 above)
Comment (Rob23oba) [reply tests/lean/interactive/incrementalTactic.lean.expected.out:64]: It's because `replaceTargetDefEq` doesn't create a new goal if the old and new goals are exactly equal but `refine_lift show _ from _` well ... obviously doesn't have such an optimization.

File: tests/lean/run/showTactic.lean (hunk 8 above)
Comment (Rob23oba) [reply tests/lean/run/showTactic.lean:124]: Well, I guess by the same philosophy, if no term elaborates, then the errors of the first one should be shown though; but this comes with a problem: In order to get a reasonable error state, we need to try the goal without error recovery (since otherwise only the first error would be visible). But then something like `a = _` would match `() = ()` again, which we don't want. Is there maybe some way to elaborate a term with error recovery but then detect whether there was an error?

File: src/Lean/Elab/Tactic/Show.lean [hunk 11]
```diff
@@ -0,0 +1,82 @@
...
+@[inline]
+private def withCaptureLog (x : TacticM Unit) : TacticM MessageLog := do
+  let prevMessages := (← getThe Core.State).messages
+  modifyThe Core.State (fun s => { s with messages := {} })
+
+  withTheReader Core.Context (fun ctx => { ctx with suppressElabErrors := false }) x
+
+  let newMessages := (← getThe Core.State).messages
+  modifyThe Core.State (fun s => { s with messages := prevMessages ++ newMessages })
+  return newMessages
```
Comment (kmill) [inline src/Lean/Elab/Tactic/Show.lean]: Sorry to ask for more changes.

I get worried when we make tactics rely on message log computations.

Having slept on this, I think that `withoutRecover` should be used for every single goal. It will be very confusing if `show` selects the last goal by virtue of some elaboration errors.

When the first one succeeds, great.

If they all fail, then we can have the tactic do one of two things depending on the current recovery state.
1. If recovery state is disabled, then we simply re-throw the last error. The error message doesn't really matter, since this is supporting something like `show e` in `first | show e | show f`.
2. If recovery state is enabled, then we can re-do `elabChange` for the first goal (this time without `withoutRecover`) and then make sure to `throwAbortTactic` in case `elabChange` didn't itself throw an exception (you can add an `assert! tgt'.hasSyntheticSorry` as a consistency check, since that *should* be true if `elabChange` doesn't throw an exception).

In this second case, the `elabChange` error message could appear like so:
```
No goals unify with the given pattern.\n\
\n\
In the first goal, the pattern{indentExpr p}\n\
is not definitionally equal to the target{indentExpr tgt}\n\
(Errors for other goals omitted.)
```

**Comment by Rob23oba** [comment]
One other thing: Because of the `replaceTargetDefEq` behavior, trivial `show`s (in the sense of repeating the goal state) get flagged by the unused tactic linter. Should we keep this or add `show` as an exception to the linter for proof readability concerns?

**Comment by Rob23oba** [comment]
Oh and I forgot about the `throwAbortTactic`. Why would that be needed? I mean `change _` doesn't use it either.

**Comment by kmill** [comment]
I think it could make sense to allow "unused" `show`s in mathlib — it's better than `change` for inserting checkpoints since `change` sounds like it changes the goal.  Feel free to create a zulip thread to discuss it with mathlib.

**Comment by kmill** [comment]
> throwAbortTactic

I'm assuming that `elabTerm` in `elabChange` is going to log messages to indicate error, but this assumes bug-free elaboration, and that `withoutRecover` doesn't make terms that successfully elaborate become unsuccessful terms.

`throwAbortTactic` creates a "silent" exception to abort tactic evaluation, and hopefully there are errors in the message log from the failed elaboration. We don't want double errors: the elaboration error should take precedence.

A way to be robust here is to do something like `if message log has errors then throwAbortTactic else throwError "internal error, failed elaboration produced no errors (please report)"`.

**Comment by kmill** [comment]
You know what, maybe you don't need this `throwAbortTactic` logic. I was assuming that you got some doubled errors, but `change` doesn't seem to have this problem. I guess there's something else that checks whether there are errors in the message log already.

**Edit:** Right, that's the purpose of the es argument in lazy messages. Ok, ignore this suggestion to use throwAbortTactic.

**Comment by Rob23oba** [comment]
Oh uh I haven't *merged* the adapation yet; might that be a problem?
